* C:\Users\Sabrina Ghidossi\Desktop\ITBA\3 ano 2 C\Electronica 1\Electro1\Trabajo Práctico 1\Simulacion Autopolarizacion\Autopolarizacion en base.asc
Q1 N002 N004 N005 0 BC547B
R1 N001 N002 2200
R2 N004 N001 780k
R3 0 N005 1500
V1 N001 0 9
V2 N003 0 AC 1
R5 N004 P001 100
R4 N002 0 1k
C1 P001 N003 100n
C2 N006 0 0.1µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sabrina Ghidossi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 300 1k 10Meg
.backanno
.end
